US08389524B2
1-[(4-{[(3-Oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride (2:1 mixture of R:S)
1-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (2:1 mixture of R:S, for a preparation see Example 11(d)) (60 mg, 0.2 mmol) and 3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-carbaldehyde (for a synthesis see WO2002056882, Example 6(c) (38.6 mg, 0.2 mmol) were dissolved in dichloromethane/methanol (2/0.1 ml) at room temperature under argon and stirred at room temperature for 1 h. This was then treated with NaBH(OAc)3 (85 mg, 0.4 mmol) and left to stir for 1 hour. A saturated solution of sodium bicarbonate (20 ml) was then added and the aqueous was extracted with 20% methanol/dichloromethane (3×35 ml). The combined organic extracts were dried on magnesium sulphate, filtered and evaporated. The crude product was purified by silica chromatography using a 0-20% methanol/dichloromethane gradient to provide the free base of the title compound as a yellow solid (37 mg, 39%).

reactant | 1-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | NC1CCN(CC1)CC1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
reactant | 3-oxo-3,4-dihydro-2H-1,4-benzothiazine-6-carbaldehyde | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
reactant | NaBH(OAc)3 | 0.4 mmol, 85 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
reactant | dichloromethane methanol | 0.1 ml | ClCCl.CO
product | 1-[(4-{[(3-Oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 37 mg, 39% | Cl.O=C1CSC2=C(N1)C=C(C=C2)CNC2CCN(CC2)CC2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C25H27N5O3S.ClH/c31-22-15-34-21-4-1-16(11-20(21)27-22)12-26-18-7-9-28(10-8-18)13-19-14-29-23(32)5-2-17-3-6-24(33)30(19)25(17)29;/h1-6,11,18-19,26H,7-10,12-15H2,(H,27,31);1H
